US04922021
0.15 g of a 80% mineral oil dispersion of sodium hydride are added in some portions to a solution of 1.0 g (5 mmoles) of N-(2,6-dimethylphenyl)-methanesulfonamide in 20 ml of dry toluene, and the mixture is heated to 100°-105° C. within one hour. A solution of 1.4 g (5 mmoles) of N-(β-methanesulfonyloxy-propyl)-phthalimide in 15 ml of toluene is added dropwise to the mixture within 0.5 hours at the same temperature, and the mixture is stirred then at 100°-105° C. for 10 hours. The mixture is cooled, 20 ml of water are added dropwise to it, thereafter the toluene phase is separated, washed twice with 10 ml of 1 n aqueous sodium hydroxide solution and thrice with 20 ml of water, each, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. The solid residue is triturated with dry diethyl ether. 0.46 g (23.8%) of crude 1-phthalimido-2-[N-(2,6-dimethylphenyl)-methanesulfonamido]-propane are obtained. The crude product is stirred at room temperature in 100 ml of diethyl ether for one hour to obtain a purified product melting at 196°-198° C.

reactant | sodium hydride | [H-].[Na+]
reactant | N-(2,6-dimethylphenyl)-methanesulfonamide | 5 mmoles, 1.0 g | CC1=C(C(=CC=C1)C)NS(=O)(=O)C | C9H13NO2S
reactant | N-(β-methanesulfonyloxy-propyl)-phthalimide | 5 mmoles, 1.4 g | CS(=O)(=O)OC(CN1C(C=2C(C1=O)=CC=CC2)=O)C | C12H13NO5S
reactant | water | 20 ml | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phthalimido-2-[N-(2,6-dimethylphenyl)-methanesulfonamido]-propane | 0.46 g, 23.8% | C1(C=2C(C(N1CC(C)N(S(=O)(=O)C)C1=C(C=CC=C1C)C)=O)=CC=CC2)=O | C20H22N2O4S
